US06900216B2
Methyl thioglycolate (42.35 g) was added under nitrogen at 80° C. to a solution of triethylamine (109 ml) in dimethylformamide (290 ml), the mixture was stirred at 100° C. for 15 minutes, then a solution of 2-bromo-6-fluorobenzaldehyde (81.35 g; prepared in a manner similar to that described above) in dimethylformamide (70 ml) was added. The mixture was stirred at 130° C. for 5 hours, then it was cooled to ambient temperature and poured into ice-water (3000 ml). The resulting solid was collected by filtration, washed with water (2×250 ml) and dried in air to give methyl 4-bromobenzo[b]thiophene-2-carboxylate (101 g) as a yellow solid which was used without further purification.

reactant | Methyl thioglycolate | 42.35 g | C(CS)(=O)OC | C3H6O2S
reactant | triethylamine | 109 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-6-fluorobenzaldehyde | BrC1=C(C=O)C(=CC=C1)F | C7H4BrFO
solvent | dimethylformamide | 290 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | methyl 4-bromobenzo[b]thiophene-2-carboxylate | 101 g | BrC1=CC=CC=2SC(=CC21)C(=O)OC | C10H7BrO2S
